US06800651B2
A solution of pyridine-3-carboxaldehyde (322 mg, 3.0 mmol) and 4-phenoxyphenethylamine (747 mg, 3.5 mmol) in reagent grade methanol (5 mL) under nitrogen was refluxed for 2 h, then cooled to 5° C. (ice bath), and diluted with more methanol (5 mL). Sodium borohydride (0.23 g, 6 mmol) was added, and the mixture was slowly allowed to reach room temperature and stirred at room temperature overnight (18 h). The mixture was concentrated in vacuo, taken up in dichloromethane, and filtered. The filtrate was concentrated in vacuo and chromatographed on silica gel (eluted with 7% methanol/dichloromethane) to afford N-((4-phenoxy)phenylethyl)pyridine-3-methylamine (863 mg, 94%).

reactant | pyridine-3-carboxaldehyde | 3.0 mmol, 322 mg | N1=CC(=CC=C1)C=O | C6H5NO
reactant | 4-phenoxyphenethylamine | 3.5 mmol, 747 mg | O(C1=CC=CC=C1)C1=CC=C(CCN)C=C1 | C14H15NO
reactant | Sodium borohydride | 6 mmol, 0.23 g | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
product | N-((4-phenoxy)phenylethyl)pyridine-3-methylamine | 863 mg, 94% | O(C1=CC=CC=C1)C1=CC=C(C=C1)CCNCC=1C=NC=CC1 | C20H20N2O
